US07087605B2
N-{1-[3-(3-Nitrophenyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}cyclopentanecarboxamide
In analogy to the procedure for Example 36A, 3.0 g (10.9 mmol) 6-(1-aminopropyl)-3-(3-nitrophenyl)-1,2,4-triazin-5(4H)-one, 2.2 g (16.3 mmol) cyclopentanecarbonyl chloride and proportionate amounts of the other reagents are used.

reactant | 6-(1-aminopropyl)-3-(3-nitrophenyl)-1,2,4-triazin-5(4H)-one | 10.9 mmol, 3.0 g | NC(CC)C=1C(NC(=NN1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C12H13N5O3
reactant | cyclopentanecarbonyl chloride | 16.3 mmol, 2.2 g | C1(CCCC1)C(=O)Cl | C6H9ClO
product | N-{1-[3-(3-Nitrophenyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}cyclopentanecarboxamide | [N+](=O)([O-])C=1C=C(C=CC1)C1=NN=C(C(N1)=O)C(CC)NC(=O)C1CCCC1 | C18H21N5O4
